US05863917
A mixture of N-(carboxymethyl)-N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide (500 mg, 1.219 mmol) and N,N'-carbonyldiimidazole (296 mg, 1.828 mmol) in dry tetrahydrofuran (15 ml) was heated at reflux for 1 hour, cooled and concentrated under reduced pressure. The residue was partitioned between dichloromethane (20 ml) and water (10 ml). The organic solution was dried (MgSO4) and concentrated under reduced pressure. The residue was dissolved in dry tetrahydrofuran and hydrazine hydrate (122 mg, 2.438 mmol) added. After stirring at room temperature for 3 hours, the solvent was removed under reduced pressure and the residue partitioned between dichloromethane (20 ml) and saturated brine (10 ml). The aqueous layer was extracted with dichloromethane (20 ml) and the combined organic solutions were dried (MgSO4) and concentrated under reduced pressure. Purification by flash chromatography on silica gel, eluting with dichloromethane:methanol 98:2, gave N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(hydrazinocarbonylmethyl)methanesulphonamide (150 mg, 29%) as a white solid.

reactant | N-(carboxymethyl)-N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide | 1.219 mmol, 500 mg | C(=O)(O)CN(S(=O)(=O)C)C1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C13H13Cl2N3O6S
reactant | hydrazine hydrate | 2.438 mmol, 122 mg | O.NN
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(hydrazinocarbonylmethyl)methanesulphonamide | 150 mg, 29% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CC(=O)NN | C13H15Cl2N5O5S
